US05554607
1-Benzyl-3-(4-butylphenyl)-2-thioxo-imidazolidin-4-one
A mixture of N-benzyl glycine (8.7 g), 4-n-butylphenyl-isothiocyanate (8.55 g), triethyl amine (5.5 g) and chloroform (150 mL) was heated at reflux for 5 hours. The solvent was evaporated. The residue was dissolved in ethyl acetate (300 mL) and water (2×200 mL). The organic phase was dried over anhydrous magnesium sulfate and evaporated to dryness. Crystallization from ethyl acetate afforded the title compound (11.4 g) as an off-white solid, m.p. 149°-151° C. Anal. Calcd. for. C20H22N2O S: C, 70.97; H, 6.55; N, 8.28. Found: C, 70.81; H, 6.76; N, 8.32. Mass spectrum (EI, M.+) m/z 338.

reactant | N-benzyl glycine | 8.7 g | C(C1=CC=CC=C1)NCC(=O)O | C9H11NO2
reactant | 4-n-butylphenyl-isothiocyanate | 8.55 g | C(CCC)C1=CC=C(C=C1)N=C=S | C11H13NS
reactant | triethyl amine | 5.5 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-Benzyl-3-(4-butylphenyl)-2-thioxo-imidazolidin-4-one | 11.4 g | C(C1=CC=CC=C1)N1C(N(C(C1)=O)C1=CC=C(C=C1)CCCC)=S | C20H22N2OS
